US04020083
A mixture of 155.7 gms. of 6-chloro-4-hydrazinoquinazoline and 3000 ml. of triethoxy methane is refluxed with stirring for 48 hours, and after filtering off the insoluble material, the filtrate is evaporated in vacuo to dryness and the residue recrystallized from ether to obtain 9-chloro-1,2,4-triazolo[4,3-c]quinazoline, m.p. 179°-182° C.

reactant | 6-chloro-4-hydrazinoquinazoline | ClC=1C=C2C(=NC=NC2=CC1)NN | C8H7ClN4
reactant | triethoxy methane | C(C)OC(OCC)OCC | C7H16O3
product | 9-chloro-1,2,4-triazolo[4,3-c]quinazoline | ClC1=CC=2C=3N(C=NC2C=C1)C=NN3 | C9H5ClN4
